US05726165
(SR)-4-{2-[2-Hydroxy-3-(4-hydroxy-3-hydroxymethylphenoxy)propylamino]propyl}phenoxymethyl(3-benzyloxypropyl)phosphinic acid, hydrochloride salt
The title compound was prepared from (SR)-4-{2-[2-hydroxy-3-(4-hydroxy-3-hydroxymethylphenoxy)propylamino]propyl}phenoxymethyl(3-benzyloxypropyl)phosphinic acid, n-butyl ester according to a modification of the procedure described in Example 5. Acidification to pH 3.5 with 1M hydrochloric acid followed by C18 reverse phase chromatography, eluting with water-methanol (30%) and freeze drying of the resultant foam gave the title compound as a solid.

reactant | (SR)-4-{2-[2-hydroxy-3-(4-hydroxy-3-hydroxymethylphenoxy)propylamino]propyl}phenoxymethyl(3-benzyloxypropyl)phosphinic acid, n-butyl ester | OC(CNC(CC1=CC=C(OCP(OCCCC)(=O)CCCOCC2=CC=CC=C2)C=C1)C)COC1=CC(=C(C=C1)O)CO | C34H48NO8P
reactant | hydrochloric acid | 1M | Cl | ClH
product | (SR)-4-{2-[2-Hydroxy-3-(4-hydroxy-3-hydroxymethylphenoxy)propylamino]propyl}phenoxymethyl(3-benzyloxypropyl)phosphinic acid, hydrochloride salt | Cl.OC(CNC(CC1=CC=C(OCP(O)(=O)CCCOCC2=CC=CC=C2)C=C1)C)COC1=CC(=C(C=C1)O)CO | InChI=1S/C30H40NO8P.ClH/c1-23(31-18-27(33)21-38-29-12-13-30(34)26(17-29)19-32)16-24-8-10-28(11-9-24)39-22-40(35,36)15-5-14-37-20-25-6-3-2-4-7-25;/h2-4,6-13,17,23,27,31-34H,5,14-16,18-22H2,1H3,(H,35,36);1H
